US09163033B2
(±)-(4S,5R,1S) 4-ethyl-8-oxo-2-(phenylmethoxy)-2-azabicyclo[3.2.1]oct-6-en-3-one (5b):
Prepared in 86% yield (40.6 mg, 0.157 mmol) from the reaction of 2-bromo-N-(phenylmethoxy)butanamide (50.0 mg, 0.183 mmol) with furan via general procedure B. Rf=0.3 (3:1, hexanes:EtOAc); Rf 0.50 (3:1, hexanes:ethyl acetate); 1H-NMR (500 MHz, CDCl3): δ 7.45-7.42 (m, 2H), 7.41-7.32 (m, 3H), 6.51 (dd, J=6.0, 1 Hz, 1H), 6.38 (dd, J=6.0, 1.8 Hz, 1H), 5.25 (d, J=1.2 Hz, 1H), 4.99 (d, J=11.0 Hz, 1H), 4.95 (dd, J=5.1, 1.8 Hz, 1H), 4.87 (d, J=11.0 Hz, 1H), 2.99 (dt, J=10.1, 5.1 Hz, 1H), 2.07-1.96 (dqd, J=15.4, 7.5 5.3, 7.5, 15.4 Hz, 1H), 1.24-1.14 (m, 1H), and 1.03 (t, J=7.5 Hz, 3H). 13C-NMR (126 MHz, CDCl3): δ 172.1, 135.8, 133.6, 129.7, 128.8, 128.6, 91.4, 91.4, 81.3, 78.0, 51.8, 19.5, and 12.3; IR (film) 3250 (br), 3032, 2966, 2929, 2877, 1696, 1497, 1455, 1371, 1209, 1104, 1055, 1033 cm-1; HR-ESIMS calculated for C15H17NNaO3 (M+Na)+282.1101; observed 282.1083.

reactant | 2-bromo-N-(phenylmethoxy)butanamide | 0.183 mmol, 50.0 mg | BrC(C(=O)NOCC1=CC=CC=C1)CC | C11H14BrNO2
reactant | furan | O1C=CC=C1 | C4H4O
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | EtOAc | CCOC(=O)C | C4H8O2
product | (±)-(4S,5R,1S) 4-ethyl-8-oxo-2-(phenylmethoxy)-2-azabicyclo[3.2.1]oct-6-en-3-one | 86% yield | C(C)[C@@H]1C(N([C@H]2C=C[C@H]1C2=O)OCC2=CC=CC=C2)=O | C16H17NO3
